US05710164
1H-Pyrrolo[2,3-b]pyridin-3-yl-acetonitrile
A solution of dimethylsulfate (32.7 g; 0.25 mol) in THF (50 mL) was added dropwise while stirring to the solution of dimethyl-(1H-pyrrolo[2,3-b]-pyridinyl-methyl)-amine (42 g; 0.24 mol) in THF (800 mL). After the addition was complete, the mixture was heated at 80° C. for 10 minutes then cooled to ambient temperature. The solvent was decanted and the residual gum was triturated with acetone/methanol (1:1 mixture) while warming. The solid formed was collected by filtration. The solid was then dissolved in water (500 mL). Potassium cyanide (22 g; 0.32 mol) was added. The mixture was stirred at ambient temperature for 15 minutes, heated to reflux for 30 minutes, then cooled to ambient temperature. After 2 hours, the solid was collected by filtration and washed with water then dried to give 21 g (56% yield) of the title compound as an off-white solid, m.p. 141°-142° C. which was used for the reaction described in step 3.

reactant | dimethylsulfate | 0.25 mol, 32.7 g | COS(=O)(=O)OC | C2H6O4S
reactant | dimethyl-(1H-pyrrolo[2,3-b]-pyridinyl-methyl)-amine | 0.24 mol, 42 g | CN(CN1C=CC=2C1=NC=CC2)C | C10H13N3
reactant | Potassium cyanide | 0.32 mol, 22 g | [C-]#N.[K+]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 800 mL | C1CCOC1 | C4H8O
product | 1H-Pyrrolo[2,3-b]pyridin-3-yl-acetonitrile | 21 g, 56% yield | N1C=C(C=2C1=NC=CC2)CC#N | C9H7N3
